Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
LVP ___ and ___

 
History of Present Illness:
Ms. ___ is a ___ yo F with a history of NASH cirrhosis (MELD 
31, Child Class C) previously decompensated by portal 
hypertension, variceal bleeds, diuretic refractory ascites, 
SBP),
chronic R pleural effusion, SIADH c/b recurrent hyponatremia, 
now presenting with abdominal pain, worsening distention, and 
nausea.

Patient reports slow increase in abdominal distension over days 
to weeks. No pain until day prior to admission. Pain also 
associated with subjective fever and chills. No confusion,
melena, BRBPR, N/V. She had an outpatient liver appointment, 
which she missed because she could not bear the discomfort so 
instead presented to the ED. 

Denies any diarrhea, constipation, hematochezia or melena. No 
dysuria or hematuria. No chest pain, no palpitations, no 
lightheadedness, no syncope. No headaches or visual changes or
sore throat. Patient does have a chronic rash on her abdomen and 
lower back which is itchy. 
 
Past Medical History:
 - Child Class C NASH cirrhosis (diagnosed by biopsy ___, stage 
4 fibrosis) with portal hypertension and ascites  
 - Stage II-III lower esophageal variceal bleeds s/p banding  
___  
 - Hyperlipidemia  

 
Social History:
___
Family History:
Negative for any liver disease or any gastrointestinal problems. 
Negative for any malignancies.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 24 HR Data (last updated ___ @ ___ Temp: 98.7 (Tm 
98.7), BP: 130/80, HR: 97, RR: 18, O2 sat: 98%, O2 delivery: Ra, 
Wt: 168.87 lb/76.6 kg   
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, icteric sclera, pink conjunctiva, 
MMM
 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
 ABDOMEN: Large distension with e/o fluid on percussion. Minimal 
tenderness. Umbilical hernia  
 EXTREMITIES: 1+ edema bilateraly 
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose. No 
asterixes
 SKIN: warm and well perfused, no excoriations or lesions. L 
sided fungal rash on abdomen, reportedly chronic. Mild jaundice

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1452)
    Temp: 98.4 (Tm 98.4), BP: 116/79 (105-126/61-79), HR: 83
(78-88), RR: 18 (___), O2 sat: 97% (96-99), O2 delivery: RA  

 GENERAL: NAD  
 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
 ABDOMEN: No tenderness, umbilical hernia reducible, abdomen
mildly distended. 
 EXTREMITIES: 1+ edema bilateraly 
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose. No
asterixis
 SKIN: warm and well perfused. Psoriasis legions on abdomen,
reportedly chronic. Mild jaundice
 
Pertinent Results:
ADMISSION LABS:
___ 10:46AM BLOOD WBC-10.5* RBC-3.18* Hgb-9.8* Hct-30.4* 
MCV-96 MCH-30.8 MCHC-32.2 RDW-18.2* RDWSD-62.7* Plt Ct-27*
___ 10:46AM BLOOD Neuts-85.7* Lymphs-4.8* Monos-4.8* 
Eos-3.5 Baso-0.5 Im ___ AbsNeut-9.01* AbsLymp-0.51* 
AbsMono-0.51 AbsEos-0.37 AbsBaso-0.05
___ 10:46AM BLOOD ___ PTT-37.8* ___
___ 10:46AM BLOOD Glucose-100 UreaN-13 Creat-0.7 Na-134* 
K-4.2 Cl-101 HCO3-21* AnGap-12
___ 10:46AM BLOOD ALT-28 AST-40 AlkPhos-115* TotBili-7.6*
___ 10:46AM BLOOD Albumin-2.8*

STUDIES:
___ liver ultrasound:
Cirrhotic liver with moderate volume ascites and splenomegaly.  
The main portal vein is patent.

___ abdominal xray:
There is prominent appearance of the large bowel, measuring up 
to 6.5 cm, which raises the possibility of colonic ileus. There 
is no evidence of small-bowel obstruction.

___ CT A/P:
1. Cirrhotic liver morphology.  Heterogeneous attenuation of the 
left portal vein, main portal vein and SMV is likely due to 
mixing artifact.  Of note, the main portal vein was patent on 
the ultrasound performed yesterday.
2. Sequela of portal hypertension including large volume 
ascites, moderate splenomegaly and extensive intra-abdominal 
varices.

___ CT CHEST:
1.  Moderate right low-density pleural effusion with mild 
associated compressive atelectasis.  Otherwise, no evidence of 
infection within the chest.

DISCHARGE LABS:

___ 06:44AM BLOOD WBC-3.5* RBC-2.59* Hgb-8.3* Hct-25.5* 
MCV-99* MCH-32.0 MCHC-32.5 RDW-18.6* RDWSD-67.3* Plt Ct-26*
___ 06:44AM BLOOD Plt Ct-26*
___ 06:44AM BLOOD Glucose-91 UreaN-11 Creat-0.5 Na-138 
K-4.2 Cl-105 HCO3-23 AnGap-10
___ 06:44AM BLOOD ALT-21 AST-34 AlkPhos-94 TotBili-3.3*
___ 06:44AM BLOOD Calcium-7.9* Phos-3.4 Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ F with a history of NASH cirrhosis (MELD 
31, Child Class C) previously decompensated by variceal bleed, 
diuretic refractory ascites, SBP), hepatohydrothorax, SIADH c/b 
recurrent hyponatremia, now presenting with abdominal pain, 
worsening distention, and nausea secondary to volume overload, 
found to have E.coli bacteremia.

TRANSITIONAL ISSUES:
==================
[ ] Will complete 14 day course of Cipro 500 mg BID on ___, with 
transition to Cipro 500 mg daily on ___ to continue indefinitely 
for SBP ppx
[ ] Required 2 LVPs during hospitalization, may need outpatient 
LVPs moving forward for diuretic refractory ascites ___ 
hyponatremia
[ ] Should have derm followup for psoriasis
[ ] Barriers to transplant evaluation remain her immigration 
status and current insurance plan (___) and will 
continue to be addressed as an outpatient 
[ ] Vitamin D repletion was initiated. Vitamin D level should be 
repeated in 5 weeks 
[ ] Evaluated by Oral maxillofacial surgery given poor 
dentition. Once,
patient is more medically optimized, we could be able to perform
teeth extraction as outpatient basis. Furthermore, patient would
greatly benefit from formal comprehensive dental examination and
treatment plan for possible replacement of missing dentition 
such
as complete maxillary and mandibular denture. We will provide
contact information for ___ Dental School so patient is able to
have comprehensive dental examination and necessary treatment
plan. 
- ___ ___ School of Dental Medicine
___
Request an appointment by:
calling - ___
or emailing - ___
Hours: ___ 8:30 a.m. - 4:30 p.m.

ACTIVE ISSUES 
============= 
# E coli bacteremia
Likely secondary to bacterial translocation of E. coli into the 
bloodstream but not the peritoneal fluid (sampling of peritoneal 
fluid x2 was negative for SBP by culture and cell count). UA 
negative. Of note, patient does have a history of MDR e coli in 
peritoneal cx. CT chest and A/P showed no other nidus of 
infection. She was initially treated with IV meropenem and then 
narrowed to cipro based on sensitivities. Blood cultures from 
___ were the only cultures that were positive; ID evaluated her 
and felt she should continue antibiotics with cipro (BID) for 
total course 14 days from first negative blood cx (___). 
Starting on ___, patient should be on PO cipro 500mg q24hrs to 
continue for SBP prophylaxis indefinitely.

# Decompensated NASH cirrhosis w/symptomatic large volume 
ascites (diuretic refractory due to hyponatremia). Child C, MELD 
31. Significant abdominal distension with at least moderate 
ascites noted on ultrasound on admission.
- Ascites: Underwent LVP on ___ with 3L removed; LVP ___ with 
4.2L removed. ___ need outpatient LVPs moving forward given 
diuretic refractory ascites ___ hyponatremia
- SBP: Has grown MDR E.coli in the past on peritoneal fluid cx. 
No SBP on this admission based off cell count and negative 
peritoneal culture. Will resume Cipro daily ppx for history of 
SBP after finishing BID dosing for bacteremia
- Varices: ___ EGD w/ no varices, no bleeding on this 
hospitalization
- Encephalopathy: Continued home lactulose, rifaximin 

# Psoriasis
Skin findings on abdomen suggestive of psorasis. Should have 
derm followup as outpatient

# Coagulopathy, anemia, thrombocytopenia: at baseline. Secondary 
to liver disease. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cefpodoxime Proxetil 200 mg PO Q12H 
2. Lactulose 30 mL PO TID 
3. Midodrine 15 mg PO TID 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Omeprazole 20 mg PO BID 
6. Rifaximin 550 mg PO BID 
7. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth see below. 
Disp #*50 Tablet Refills:*2 
2.  Vitamin D ___ UNIT PO 1X/WEEK (SA) 
RX *ergocalciferol (vitamin D2) [Vitamin D2] 50,000 unit 1 
capsule(s) by mouth every ___ Disp #*5 Capsule Refills:*0 
3.  Lactulose 30 mL PO TID  
4.  Midodrine 15 mg PO TID  
5.  Multivitamins W/minerals 1 TAB PO DAILY  
6.  Omeprazole 20 mg PO BID  
7.  Rifaximin 550 mg PO BID  
8. HELD- Ferrous Sulfate 325 mg PO DAILY  This medication was 
held. Do not restart Ferrous Sulfate until your infection is 
resolved

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
GNR BACTEREMIA
ASCITES

SECONDARY DIAGNOSES
===================
HEPATIC HYDROTHORAX
CIRRHOSIS
PSORIASIS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to the hospital after you developed abdominal 
pain, worsening swelling, and nausea. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You were found to have bacteria growing in your blood. No 
bacteria was growing in the fluid around your abdomen
- You were treated with antibiotics. 
- You underwent a procedure called paracentesis to drain fluid 
from your abdomen as this was causing discomfort. You underwent 
this procedure twice.
- You improved and were ready to leave the hospital.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- You should no longer take Cefpodoxime. This medication is 
being replaced with a different antibiotic called Ciprofloxacin 
(you should take one tablet twice per day through ___ 
starting ___, you should take one tablet per day)
- If you feel that your abdomen is getting bigger and causing 
you discomfort or difficulty breathing, please call your liver 
doctors ___ ___. 
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors

___ was a pleasure participating in your care. We wish you the 
best!
- Your ___ Care Team

 
Followup Instructions:
___